US05571810
A mixture of 5-(4-fluorophenyl)-4-[4-(methylsulfonyl)phenyl]thiophene-2-carboxylic acid (7.1 g) and phosphorus pentachloride (4.1 g) in toluene (100 ml) and tetrahydrofuran (25 ml) was stirred at ambient temperature for 1 hour. The mixture was concentrated to dryness to give pale yellow crystals of 5-(4-fluorophenyl)-4-[4-(methylsulfonyl)phenyl]thiophene-2-carbonyl chloride (8.1 g).

reactant | 5-(4-fluorophenyl)-4-[4-(methylsulfonyl)phenyl]thiophene-2-carboxylic acid | 7.1 g | FC1=CC=C(C=C1)C1=C(C=C(S1)C(=O)O)C1=CC=C(C=C1)S(=O)(=O)C | C18H13FO4S2
reactant | phosphorus pentachloride | 4.1 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
product | 5-(4-fluorophenyl)-4-[4-(methylsulfonyl)phenyl]thiophene-2-carbonyl chloride | 8.1 g | FC1=CC=C(C=C1)C1=C(C=C(S1)C(=O)Cl)C1=CC=C(C=C1)S(=O)(=O)C | C18H12ClFO3S2
